US05286737
Preparation of 4-(2,4-Difluorobenzyl)-1-oxaspiro[2.4]heptane
Trimethylsulfoxonium iodide (4.86 g, 22.1 mmol, 1.3 eq) was dissolved in DMSO (25 ml) and sodium hydride (0.49 g, 20.4 mmol, 1.2 eq) was added at 100° C. while being stirred. The solution was warmed to room temperature and stirred for 45 min while being stirred; thereafter, the solution became transparent. After terminal evolution of hydrogen had been confirmed, the solution was again heated at 10° C. and 2-(2,4-difluorobenzyl)cyclopentanone (3.56 g, 17.0 mmol, 1.0 eq) was dripped into the solution.

reactant | Trimethylsulfoxonium iodide | 22.1 mmol, 4.86 g, 1.3 eq | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 20.4 mmol, 0.49 g, 1.2 eq | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-(2,4-difluorobenzyl)cyclopentanone | 17.0 mmol, 3.56 g, 1.0 eq | FC1=C(CC2C(CCC2)=O)C=CC(=C1)F | C12H12F2O
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 4-(2,4-Difluorobenzyl)-1-oxaspiro[2.4]heptane | FC1=C(CC2C3(CO3)CCC2)C=CC(=C1)F | C13H14F2O
